US07935782B2
56. Synthesis of 1,2-Bis(Trimethylsilyl)Benzene
Magnesium (9.72 g, 400 mmol), hexamethylphosphoramide (HMPA) (80 mL, 460 mmol), 1,2-dichlorobenzene (14.76 g, 100 mmol), and a catalytic amount of 12 were combined in a 500 mL round bottomed flask and heated to 70° C. with stirring. Chlorotrimethylsilane was added dropwise to the solution at 70° C. The solution was stirred for an additional 30 minutes and then heated to 100° C. for 48 h. After cooling, the reaction mixture was poured over ice and NaHCO3. The Mg and precipitate were filtered off and the filtrate was extracted with ether (3×, 200 mL). The organic phase was washed with water (2×, 400 mL) and brine (1×, 400 mL) and dried with Na2SO4 and concentrated. The product was distilled under reduced pressure at 128-133° C. to yield a light yellow oil (12.0426 g, 54.13%). 1H NMR (300 MHz, CDCl3) δ 7.85 (dd, 2H, J=3.4 Hz, J=5.5 Hz, ArH), 7.49 (dd, 2H, J=3.4 Hz, J=5.5 Hz, ArH), 0.55 (s, 18H, CH3); 13C NMR (300 MHz, CDCl3) δ 145.98, 135.17, 127.76, 1.96

reactant | Magnesium | 400 mmol, 9.72 g | [Mg] | Mg
reactant | hexamethylphosphoramide | 460 mmol, 80 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | 1,2-dichlorobenzene | 100 mmol, 14.76 g | ClC1=C(C=CC=C1)Cl | C6H4Cl2
reactant | Chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 1,2-Bis(Trimethylsilyl)Benzene | 12.0426 g, 54.13% | C[Si](C1=C(C=CC=C1)[Si](C)(C)C)(C)C | C12H22Si2
